US05952504
(D) 3-Butyryl-4-(2-methylphenylamino)-8-methoxy-1,7-naphthyridine
3-Butyryl-4-methanesulfonyloxy-8-methoxy-1,7-naphthyridine (259 mg) and o-toluidine (0.17 ml) were dissolved into 7 ml of acetonitrile, and the solution was extracted with chloroform, and the organic phase was washed with water and then saturated sodium bicarbonate. After drying, and concentration under reduced pressure, the resulting residue was subjected to silica gel column chromatography using a mixture of hexane:ethyl acetate (1:1) as an eluant to give yellow titled compound (150 mg, 56%).

reactant | 3-Butyryl-4-methanesulfonyloxy-8-methoxy-1,7-naphthyridine | 259 mg | C(CCC)(=O)C=1C=NC2=C(N=CC=C2C1OS(=O)(=O)C)OC | C14H16N2O5S
reactant | o-toluidine | 0.17 ml | NC=1C(=CC=CC1)C | C7H9N
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
product | 3-Butyryl-4-(2-methylphenylamino)-8-methoxy-1,7-naphthyridine | 150 mg, 56% | C(CCC)(=O)C=1C=NC2=C(N=CC=C2C1NC1=C(C=CC=C1)C)OC | C20H21N3O2
